US04790961
(a) 2-(4-methoxybenzoyl)benzoic acid
Anhydrous aluminum chloride (140 g) was added at ambient temperature to a vigorously stirred mixture of 148 g of phthalic anhydride, 250 ml anisole, and 250 ml carbon disulfide. After 2.5 hours, the solution was hydrolyzed with ice water and the organic solvents were removed by steam distillation. A gray solid which precipitated when the residual solution cooled to room temperature was separated from the liquid by decantation and dissolved in ca. 1 L chloroform. Rotary evaporation of the chloroform left 107 g (42%) of white solid which was recrystallized from acetic acid/water: mp. 142°-144.5° C. (lit.* mp. 122°-123.5° C.). IR (KBr): 1686, 1660 (two different carbonyls), 1550-1600, 1420-1370, 1280, 1255, 1170, 1150, 1015, 850, 800, 755 cm-1.

reactant | aluminum chloride | 140 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phthalic anhydride | 148 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | anisole | 250 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | carbon disulfide | 250 ml | C(=S)=S | CS2
product | 2-(4-methoxybenzoyl)benzoic acid | COC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C15H12O4
